US07598257B2
Step B: Ethyl (2E)-3-(tetrahydrofuran-3-yl)acrylate
To a 0° C. mixture of sodium hydride (60% in mineral oil) (382 mg, 9.40 mmol) in DMF (15.0 mL) (THF may also be used) was added triethyl phosphonoacetate (1.72 mL, 8.68 mmol) dropwise. The resulting mixture was warmed to room temperature and stirred for 30 minutes, then was re-cooled to 0° C., at which time a solution of tetrahydrofuran-3-carbaldehyde (724 mg, 7.23 mmol) in DMF (4.0 mL) was added dropwise. The resulting mixture was stirred at this temperature for 1.5 hours, at which time the mixture was diluted with water and the product was extracted with ether. The combined extracts were washed with water and brine, dried over sodium sulfate and the solvent removed in vacuo. Flash column chromatography (eluting with a gradient from 0-40% ethyl acetate in hexanes) afforded the product (640 mg, 52%).

reactant | sodium hydride | 9.40 mmol, 382 mg | [H-].[Na+]
reactant | THF | C1CCOC1 | C4H8O
reactant | tetrahydrofuran-3-carbaldehyde | 7.23 mmol, 724 mg | O1CC(CC1)C=O | C5H8O2
reactant | DMF | 15.0 mL | CN(C)C=O | C3H7NO
reactant | DMF | 4.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Ethyl (2E)-3-(tetrahydrofuran-3-yl)acrylate | 640 mg, 52% | O1CC(CC1)/C=C/C(=O)OCC | C9H14O3
